US07777047B2
({7-[methyl(pyridin-2-ylsulfonyl)amino]-2-[5-(thiomorpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-5-yl}oxy)acetic acid
To a solution of ethyl ({7-[methyl(pyridin-2-ylsulfonyl)amino]-2-[5-(thiomorpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-5-yl}oxy)acetate (275 mg) in tetrahydrofuran (2 mL) and ethanol (2 mL) was added 1N aqueous sodium hydroxide solution (0.70 mL), and the mixture was stirred overnight at room temperature. The organic solvent was evaporated under reduced pressure, and the residue was neutralized with 1N hydrochloric acid. The mixture was extracted with a mixed solvent of tetrahydrofuran-ethyl acetate, and the combined organic layers were washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was crystallized from ethyl acetate to give the title compound (137 mg, yield 53%) as colorless crystals. melting point 132-134° C.

reactant | ethyl ({7-[methyl(pyridin-2-ylsulfonyl)amino]-2-[5-(thiomorpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-5-yl}oxy)acetate | 275 mg | CN(C=1C=C(C=C2C=C(NC12)C=1SC(CN1)CN1CCSCC1)OCC(=O)OCC)S(=O)(=O)C1=NC=CC=C1 | C26H31N5O5S3
reactant | sodium hydroxide | 1N, 0.70 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | ({7-[methyl(pyridin-2-ylsulfonyl)amino]-2-[5-(thiomorpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-5-yl}oxy)acetic acid | 137 mg, yield 53% | CN(C=1C=C(C=C2C=C(NC12)C=1SC(CN1)CN1CCSCC1)OCC(=O)O)S(=O)(=O)C1=NC=CC=C1 | C24H27N5O5S3
